US07186715B2
1,1-Dimethyl-6-methoxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid ethyl ester
To a solution of the triflate salt of 1,1-dimethyl-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid ethyl ester (1.5 g, 3.76 mmol, 1.0 eq.) in MeOH (20 mL) and CH2Cl2 (2 mL) at 0° C. was added a solution of (trimethylsilyl)diazomethane (2.0 M in hexane, 3.7 mL, 2.0 eq.). The resulting mixture was warmed to r.t. and stirred overnight, and then the solution was concentrated. Purification by flash chromatography (125 g SiO2 linear gradient, 40 mL/min, 1:1 EtOAc/hexane for 33 minutes) afforded about 900 mg of the final compound (96%).

reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
reactant | 1,1-dimethyl-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid ethyl ester | 3.76 mmol, 1.5 g, 1.0 eq. | C(C)OC(=O)C1NC(C2=CC=CC=C2C1)(C)C | C14H19NO2
reactant | (trimethylsilyl)diazomethane | 2.0 M, 3.7 mL, 2.0 eq. | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | MeOH | 20 mL | CO | CH4O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethyl-6-methoxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid ethyl ester | about 900 mg, 96% | C(C)OC(=O)C1NC(C2=CC=C(C=C2C1)OC)(C)C | C15H21NO3
